US05306728
Production of (E)-N-ethyl-N-(7,7,7-trifluoro-6-trifluoromethyl-6-methoxy-2-hepten-4-ynyl)-2-[2-[3-(3-thienyl)-phenoxy]ethoxy]ethylamine
159 mg of (E)-ethyl-N-(7,7,7-trifluoro-6-trifluoromethyl-6-hydroxy-2-hepten-4-ynyl)-2-[2-[3-(3-thienyl)phenoxy]ethoxy]ethylamine was dissolved in 2 ml of dimethylformamide, and 24 mg of 60% oily sodium hydride was added. The mixture was stirred at room temperature for 10 minutes. To this solution was added 60 μl of dimethyl sulfate, and then the mixture was stirred at room temperature for 4 hours. The solvent was evaporated under reduced pressure, and ethyl acetate and water were added to the residue to extract it. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The desiccant was separated by filtration, and the solvent was evaporated. The residue was purified by silica gel column chromatography [methylene chloride/methanol=70/1] to give 24 mg (yield 15%) of the captioned compound as a pale yellow oil.

reactant | (E)-ethyl-N-(7,7,7-trifluoro-6-trifluoromethyl-6-hydroxy-2-hepten-4-ynyl)-2-[2-[3-(3-thienyl)phenoxy]ethoxy]ethylamine | 159 mg | C(C)N(C\C=C\C#CC(C(F)(F)F)(O)C(F)(F)F)CCOCCOC1=CC(=CC=C1)C1=CSC=C1 | C24H25F6NO3S
reactant | sodium hydride | 24 mg | [H-].[Na+]
reactant | dimethyl sulfate | 60 μl | S(=O)(=O)(OC)OC | C2H6O4S
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (E)-N-ethyl-N-(7,7,7-trifluoro-6-trifluoromethyl-6-methoxy-2-hepten-4-ynyl)-2-[2-[3-(3-thienyl)-phenoxy]ethoxy]ethylamine | 24 mg, yield 15% | C(C)N(C\C=C\C#CC(C(F)(F)F)(OC)C(F)(F)F)CCOCCOC1=CC(=CC=C1)C1=CSC=C1 | C25H27F6NO3S
